US06852726B2
The 5-chloro-1-(4,5-dihydro-1H-imidazol-2-ylmethyl)-3-[2-(tetrahydro-pyran-2-yloxy)-ethanesulfonyl]-1H-indole (0.028 g) prepared in the previous Step was dissolved in 4 ml acetic acid:water (2:1) and stirred at 45-50° C. for 3 h. The solvents were removed under reduced pressure and the crude product was purified by column chromatography (silica gel) eluting with 3-5% methanol in methylene chloride with 0.1% ammonium hydroxide added. The 2-[5-Chloro-1-(4,5-dihydro-1H-imidazol-2-ylmethyl)-1H-indole-3-sulfonyl]-ethanol thus obtained weighed 0.005 g after drying.

reactant | 5-chloro-1-(4,5-dihydro-1H-imidazol-2-ylmethyl)-3-[2-(tetrahydro-pyran-2-yloxy)-ethanesulfonyl]-1H-indole | 0.028 g | ClC=1C=C2C(=CN(C2=CC1)CC=1NCCN1)S(=O)(=O)CCOC1OCCCC1 | C19H24ClN3O4S
solvent | acetic acid water | 4 ml | C(C)(=O)O.O
product | 2-[5-Chloro-1-(4,5-dihydro-1H-imidazol-2-ylmethyl)-1H-indole-3-sulfonyl]-ethanol | ClC=1C=C2C(=CN(C2=CC1)CC=1NCCN1)S(=O)(=O)CCO | C14H16ClN3O3S
